US07858640B2
2-(4-ethanesulfonylbenzyl)-3-oxothiobutyric acid S-tert-butyl Ester
The title compound was prepared by the method of Preparation 34a using 1-bromomethyl-4-ethanesulfonylbenzene and 3-oxothiobutyric acid S-tert-butyl ester.

reactant | 1-bromomethyl-4-ethanesulfonylbenzene | BrCC1=CC=C(C=C1)S(=O)(=O)CC | C9H11BrO2S
reactant | 3-oxothiobutyric acid S-tert-butyl ester | C(C)(C)(C)SC(CC(C)=O)=O | C8H14O2S
product | 2-(4-ethanesulfonylbenzyl)-3-oxothiobutyric acid S-tert-butyl Ester | C(C)(C)(C)SC(C(C(C)=O)CC1=CC=C(C=C1)S(=O)(=O)CC)=O | C17H24O4S2
